US07244861B2
2.65 g of t-butyl N-(5-formyl-2-methoxybenzyl)carbamate, 3.81 g of methyl 2-([(benzyloxy)carbonyl]amino-2-(dimethoxyphosphoryl)acetate and 1.75 g of 1,8-diazabicyclo[5,4,0]-7-undecene were dissolved in 50 ml of dichloromethane, followed by stirring for 15 hours at room temperature. 300 ml of ethyl acetate was added, and the organic layer was successively washed with 150 ml of water and 150 ml of brine, dried over magnesium sulfate and concentrated. The residue was purified by silica gel column chromatography, and 4.09 g of 2-{[(benzyloxy)carbonyl]amino}-3-(3-{[(t-butoxycarbonyl)amino]methyl}-4-methoxyphenyl)-2-propenoic acid methyl ester was obtained as a colorless solid.

reactant | t-butyl N-(5-formyl-2-methoxybenzyl)carbamate | 2.65 g | C(=O)C=1C=CC(=C(CNC(OC(C)(C)C)=O)C1)OC | C14H19NO4
reactant | [(benzyloxy)carbonyl]amino-2-(dimethoxyphosphoryl)acetate | C(C1=CC=CC=C1)OC(=O)NC(C(=O)[O-])P(=O)(OC)OC
reactant | 1,8-diazabicyclo[5,4,0]-7-undecene | 1.75 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-{[(benzyloxy)carbonyl]amino}-3-(3-{[(t-butoxycarbonyl)amino]methyl}-4-methoxyphenyl)-2-propenoic acid methyl ester | 4.09 g | COC(C(=CC1=CC(=C(C=C1)OC)CNC(=O)OC(C)(C)C)NC(=O)OCC1=CC=CC=C1)=O | C25H30N2O7
